US05332737
To a mixture of cyanuric chloride (50 g, 271 mM), acetone (200 ml) and ice (300 g) was added, over ten minutes, a mixture of indoline (32 ml, 286 mM) and 2.5N hydrochloric acid (120 ml). To this stirred mixture was added, over one hour, a solution of sodium secondary phosphate which had been prepared by neutralising 2.5N sodium hydroxide (250 ml) with orthophosphoric acid to PH 7 to 7.5. The mixture was then stirred for one hour, filtered and the resultant solid was washed with water and dried at 80° C. There was thus obtained 2,4-dichloro-6-indolin-1-yl-1,3,5-triazine (72.4 g, 87% yield), a portion of which was recrystallised from toluene, mp 254°-256° C. NMR: DMSOd6 : 3.15-3.3 (2H, t, CH2CH2 --N), 4.05-4.3 (2H, complex, CH2CH2N--) (rotamers), 7.0-7.4 (3H, complex, aromatic), 8.15-8.4 (1H, complex, aromatic).

reactant | cyanuric chloride | 271 mM, 50 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | indoline | 286 mM, 32 ml | N1CCC2=CC=CC=C12 | C8H9N
reactant | hydrochloric acid | 2.5N, 120 ml | Cl | ClH
reactant | sodium | [Na] | Na
reactant | sodium hydroxide | 2.5N, 250 ml | [OH-].[Na+]
reactant | orthophosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2,4-dichloro-6-indolin-1-yl-1,3,5-triazine | 72.4 g, 87% yield | ClC1=NC(=NC(=N1)Cl)N1CCC2=CC=CC=C12 | C11H8Cl2N4
